US08686002B2
2-[(2-Aminoquinazolin-3(4H)-yl)methyl]phenol
120 mg (0.45 mmol) 3-(2-methoxybenzyl)-3,4-dihydroquinazolin-2-amine and 5 g pyridine hydrochloride were combined and heated for 4 hours at approx. 140° C. After cooling the melt, the residue was dissolved in water, extracted three times with dichloromethane and the combined organic phases were dried, filtered and evaporated. The resulting crude product was purified over MPLC (silica gel: Bischoff Prontoprep 60-2540-C18E, 32 μm; mobile phase: CH3CN/H2O+0.1% acetic acid) and subsequent lyophilization yielded the target product as a beige white solid; 110 mg.

reactant | 3-(2-methoxybenzyl)-3,4-dihydroquinazolin-2-amine | 0.45 mmol, 120 mg | COC1=C(CN2C(=NC3=CC=CC=C3C2)N)C=CC=C1 | C16H17N3O
reactant | pyridine hydrochloride | 5 g | Cl.N1=CC=CC=C1
solvent | water | O | H2O
product | 2-[(2-Aminoquinazolin-3(4H)-yl)methyl]phenol | NC1=NC2=CC=CC=C2CN1CC1=C(C=CC=C1)O | C15H15N3O
